US07687495B2
a) {3-[(2R,4R,5R)-4-(4-Methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-2,2-dimethyl-propyl}-(tetrahydro-pyran-4-yl)-amine
Similar to example 43a, 430 mg of 3-[(2R,4R,5R)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-2,2-dimethyl-propionaldehyde and 79 mg of 4-aminotetrahydropyran are used to afford the title compound as a yellow oil. Rf=0.05 (EtOAc-heptane 1:1); Rt=4.65.

reactant | 3-[(2R,4R,5R)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-2,2-dimethyl-propionaldehyde | 430 mg | COC1=CC=C(C=C1)[C@H]1C[C@@H](N(C[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)CC(C=O)(C)C | C37H48N2O7S
reactant | 4-aminotetrahydropyran | 79 mg | NC1CCOCC1 | C5H11NO
product | {3-[(2R,4R,5R)-4-(4-Methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-2,2-dimethyl-propyl}-(tetrahydro-pyran-4-yl)-amine | COC1=CC=C(C=C1)[C@H]1C[C@@H](N(C[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)CC(CNC1CCOCC1)(C)C | C42H59N3O7S
